US07307099B2
4-(1-benzenesulfonyl-1H-indol-2-yl)-4-hydroxy4H-naphthalen-1-one
The title compound was prepared from 4,4-dimethoxy-4H-naphthalen-1-one and 1-benzenesulfonyl-1H-indole, according to Method E, described above. Yield 20%; mp 175-177° C.; 1H NMR (CDCl3) δ 8.19-8.23 (dd, J=7 Hz, 1H), 8.02-8.05 (dd, J=9 Hz, 1H), 7.80-7.92 (m, 4H), 7.68-7.73 (t, J=7 Hz, 1H), 7.55-7.64 (m, 2H), 7.42-7.48 (t, J=7 Hz, 2H), 7.25-7.32 (m, 3H), 7.14-7.20 (m, 1H), 6.37 (d, J=11 Hz, 1H); 13C NMR (CDCl3) δ 189.7, 153.9, 149.7, 148.9, 143.7, 143.2, 139.0, 137.9, 135.7, 134.2, 133.7, 133.6, 132.4, 131.6, 131.3, 130.8, 129.4, 126.7, 120.5, 74.9; MS (AP+) m/z 416.07 (M++1), 398.06.

reactant | 4,4-dimethoxy-4H-naphthalen-1-one | COC1(C=CC(C2=CC=CC=C12)=O)OC | C12H12O3
reactant | 1-benzenesulfonyl-1H-indole | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC=CC=C12 | C14H11NO2S
product | 4-(1-benzenesulfonyl-1H-indol-2-yl)-4-hydroxy4H-naphthalen-1-one | Yield 20% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)C1(C=CC(C2=CC=CC=C12)=O)O | C24H17NO4S
